US07989497B2
Step 2: 1-(Pyrazin-2-yl)propan-1-amine
The 2-(1-azidopropyl)pyrazine (56 mg) was dissolved in the THF (5 ml) and water (1 ml) and the PS-PPh3 (225 mg) added. The reaction mixture was heated to 50° C. and left to stir for approx. 20 hours. The mixture was filtered under vacuum and rinsed with DCM (a precipitate formed and re-dissolved with MeOH) then MeOH. The filtrate was evaporated to yield the title compound as a yellow oil which was used without further purification. [M+H]+ 138.

reactant | 2-(1-azidopropyl)pyrazine | 56 mg | N(=[N+]=[N-])C(CC)C1=NC=CN=C1 | C7H9N5
reactant | PPh3 | 225 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | MeOH | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 1-(Pyrazin-2-yl)propan-1-amine | N1=C(C=NC=C1)C(CC)N | C7H11N3
